US07495016B2
12.4 Preparation of 3-[4-(3-benzyloxyphenyl)-2-oxo-pyrrolidin-1-yl]benzamide according to General Procedure IV
To a solution of 3-[4-(3-benzyloxyphenyl)-2-oxo-pyrrolidin-1-yl]benzonitrile (1.3 g, 3.36 mmol) in 25 mL EtOH was added 25% NaOH (0.15 mL) followed by the slow addition of 1.5 mL H2O2 (30%). The reaction mixture was heated to 45° C. and stirred for 5 h. The mixture was then cooled down and concentrated under reduced pressure. The residue was dissolved in 100 mL EtOAc, washed with water and brine, dried over MgSO4 and concentrated again. The residue was purified by column chromatography on silica gel (EtOAc:Hexane=1:3) to give 1.3 g of the desired product. Yield: 99%.

reactant | 3-[4-(3-benzyloxyphenyl)-2-oxo-pyrrolidin-1-yl]benzonitrile | 3.36 mmol, 1.3 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1CC(N(C1)C=1C=C(C#N)C=CC1)=O | C24H20N2O2
reactant | NaOH | 0.15 mL | [OH-].[Na+]
reactant | H2O2 | 1.5 mL | OO | H2O2
solvent | EtOH | 25 mL | CCO | C2H6O
product | 3-[4-(3-benzyloxyphenyl)-2-oxo-pyrrolidin-1-yl]benzamide | 1.3 g, Yield: 99% | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1CC(N(C1)C=1C=C(C(=O)N)C=CC1)=O | C24H22N2O3
